* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\TRAN_V-Sine_R+L.asc
V1 N001 0 SINE(0 1 10)
R1 N001 N002 1
L1 N002 0 1
.tran 1
.backanno
.end
